US06897231B2
C. 3-(3,4-Dimethoxyphenyl)-1H-indazole-5-carboxamide
To a solution of 3-(3,4-dimethoxyphenyl)-1H-indazole-5-carbonitrile (200 mg, 0.72 mmol) in ethanol (3.5 mL) was added 6 N NaOH (0.5 mL) followed by H2O2 (2.0 mL of a 30% solution). The solution was heated to 45° C. for 1 Hour when water (80 mL) was added and the pH adjusted to <1 with 3 N HCl. The reaction was then filtered and the product dried to give the title compound (180 mg, 61 mmol, 84% yield). 1H NMR (DMSO-d6) δ 13.3 (s, 1H), 8.59 (s, 1H), 8.12 (br s, 1H), 7.92 (d, 1H), 7.6-7.5 (m, 2H), 7.52 (s, 1H), 7.3 (br s, 1H), 7.13 (d, 1H), 3.87 (s, 3H), 3.84 (s, 3H); ES-MS (m/z) 298 [M+1]+.

reactant | 3-(3,4-dimethoxyphenyl)-1H-indazole-5-carbonitrile | 0.72 mmol, 200 mg | COC=1C=C(C=CC1OC)C1=NNC2=CC=C(C=C12)C#N | C16H13N3O2
reactant | NaOH | 6 N, 0.5 mL | [OH-].[Na+]
reactant | H2O2 | OO | H2O2
reactant | HCl | 3 N | Cl | ClH
solvent | ethanol | 3.5 mL | C(C)O | C2H6O
solvent | water | 80 mL | O | H2O
product | 3-(3,4-Dimethoxyphenyl)-1H-indazole-5-carboxamide | 61 mmol, 180 mg, 84% yield | COC=1C=C(C=CC1OC)C1=NNC2=CC=C(C=C12)C(=O)N | C16H15N3O3
